US05229505
1-(4-Chlorobenzyl)-3-(2-nitrovinyl)indole
80.9 g of 1-(4-chlorobenzyl)-3-formylindole, prepared in Example 5, 18 g of ammonium acetate and 300 ml of nitromethane are refluxed for 30 min.

reactant | 1-(4-chlorobenzyl)-3-formylindole | 80.9 g | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C=O)C=C1 | C16H12ClNO
reactant | ammonium acetate | 18 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 300 ml | [N+](=O)([O-])C | CH3NO2
product | 1-(4-Chlorobenzyl)-3-(2-nitrovinyl)indole | ClC1=CC=C(CN2C=C(C3=CC=CC=C23)C=C[N+](=O)[O-])C=C1 | C17H13ClN2O2
